US05885999
a) (S)-1'-[2-t-Butoxycarbonylamino-3-(3,4-dichlorobenzyloxy)propionyl]spiro[2H-1-benzopyran-2,4'-piperidin]-4-(3H)-one
Triethylamine (0.50 mL, 0.36 g, 3.6 mmol) was added to a stirred, cooled (0° C.) mixture of (S)-2-t-butoxycarbonylamino-3-(3,4-dichlorobenzyloxy)propionic acid (364 mg, 1 mmol), spiro[2H-1-benzopyran-2,4'-piperidin]-4-(3H)-one hydrochloride (U.S. Pat. No. 5,206,240, Example 67A) (254 mg, 1 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (230 mg, 1.2 mmol) and 1-hydroxybenzotriazole (162 mg, 1.2 mmol) in dimethylformamide (5 mL) and the mixture was stirred at room temperature for 2 h. Aqueous sodium hydrogen carbonate (saturated, 20 mL) and water (10 mL) were added and the mixture was extracted with ethyl acetate (3×20 mL). The combined organic fractions were washed with aqueous citric acid (10%, 2×20 mL), aqueous sodium hydrogen carbonate (saturated, 2×20 mL) and brine (20 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH (99.5:0.5 increasing to 98:2) to give the title compound as a colorless foam (248 mg, 44%). m/e (ES+) 563 (MH+).

reactant | Triethylamine | 3.6 mmol, 0.50 mL, 0.36 g | C(C)N(CC)CC | C6H15N
reactant | (S)-2-t-butoxycarbonylamino-3-(3,4-dichlorobenzyloxy)propionic acid | 1 mmol, 364 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COCC1=CC(=C(C=C1)Cl)Cl | C15H19Cl2NO5
reactant | spiro[2H-1-benzopyran-2,4'-piperidin]-4-(3H)-one hydrochloride | Cl.N1CCC2(CC1)OC1=C(C(C2)=O)C=CC=C1
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.2 mmol, 230 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 1.2 mmol, 162 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | (S)-1'-[2-t-Butoxycarbonylamino-3-(3,4-dichlorobenzyloxy)propionyl]spiro[2H-1-benzopyran-2,4'-piperidin]-4-(3H)-one | 248 mg, 44% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1CCC2(CC1)OC1=C(C(C2)=O)C=CC=C1)COCC1=CC(=C(C=C1)Cl)Cl | C28H32Cl2N2O6
